US05539066
A solution of 67.8 mmol of fluorenyllithium in 50 cm3 of THF was added at room temperature to a solution of 11.4 g (67.8 mmol) of 6-methyl-6-phenylfulvene in 40 cm3 of THF. The mixture was stirred at room temperature for 2 hours, and 60 cm3 of water were added. The substance which precipitated was filtered off with suction, washed with diethyl ether and dried in an oil-pump vacuum. 19.1 g (84.2%) of 2,2-cyclopentadienyl(9-fluorenyl)ethylbenzene (correct elemental analyses; 1H-NMR spectrum) were obtained.

reactant | fluorenyllithium | 67.8 mmol | C1(=CC=CC=2C3=CC=CC=C3CC12)[Li]
reactant | 6-methyl-6-phenylfulvene | 67.8 mmol, 11.4 g | CC(=C1C=CC=C1)C1=CC=CC=C1 | C13H12
reactant | water | 60 cm3 | O | H2O
solvent | THF | 50 cm3 | C1CCOC1 | C4H8O
solvent | THF | 40 cm3 | C1CCOC1 | C4H8O
product | 2,2-cyclopentadienyl(9-fluorenyl)ethylbenzene | 19.1 g, 84.2% | C1(C=CCC1)C1=C(C=CC=C1)CCC1C2=CC=CC=C2C=2C=CC=CC12 | C26H24
